US06166006
Under argon atmosphere, a solution of N-methyl-N-methoxy-5-bromofuran-2-carboxamide (2.77 g), 4-methylphenyl borate (1.93 g) and potassium carbonate (3.27 g) in toluene-ethanol-water (110-11-11 ml) was stirred at room temperature for 1 hour. To the reaction mixture was added tetrakistriphenylphosphinepalladium (0.41 g), and the mixture was refluxed for 20 hours and cooled to room temperature. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:5→1:2→1:1) to give N-methyl-N-methoxy-5-(4-methylphenyl)furan-2-carboxamide (2.65 g) as colorless crystals.

reactant | N-methyl-N-methoxy-5-bromofuran-2-carboxamide | 2.77 g | CN(C(=O)C=1OC(=CC1)Br)OC | C7H8BrNO3
reactant | 4-methylphenyl borate | 1.93 g | B(OC1=CC=C(C=C1)C)([O-])[O-]
reactant | potassium carbonate | 3.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakistriphenylphosphinepalladium | 0.41 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-methyl-N-methoxy-5-(4-methylphenyl)furan-2-carboxamide | 2.65 g | CN(C(=O)C=1OC(=CC1)C1=CC=C(C=C1)C)OC | C14H15NO3
